US07667041B2
To a DMF (20 mL) solution of 5-bromo-3-methoxy-2-nitropyridine (726 mg) synthesized according to the method described in Acta Chemica Scandinavica vol. 47, p. 805, 1993, ethyl acrylate (0.44 mL), palladium acetate (35 mg), 2-(di-tert-butylphosphino) biphenyl (93 mg) and TEA (0.87 mL) were added, and the reaction solution was agitated at 80° C. for 3 hours. After the reaction solution was allowed to be cooled to room temperature, ethyl acetate and a saturated ammonium chloride solution were added to the reaction solution to separate an organic layer. After the obtained organic layer was dried over anhydrous magnesium sulfate, solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate 2:1), and 787 mg (69%) of (E)-3-(5-methoxy-6-nitropyridin-3-yl)acrylic acid ethyl ester was obtained. The physical properties of the compound are as follows.

reactant | 5-bromo-3-methoxy-2-nitropyridine | 726 mg | BrC=1C=C(C(=NC1)[N+](=O)[O-])OC | C6H5BrN2O3
reactant | ethyl acrylate | 0.44 mL | C(C=C)(=O)OCC | C5H8O2
reactant | 2-(di-tert-butylphosphino) biphenyl | 93 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | palladium acetate | 35 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (E)-3-(5-methoxy-6-nitropyridin-3-yl)acrylic acid ethyl ester | 787 mg, 69% | C(C)OC(\C=C\C=1C=NC(=C(C1)OC)[N+](=O)[O-])=O | C11H12N2O5
